US09328137B2
Tests for Evaluating Solubility and Hydrogelation Ability of N-Palmitoyl-Gly-his for Each Additive
N-palmitoyl-Gly-His obtained in the above-described synthesis example was added in a screw bottle (manufactured by Maruemu Corporation) such that the concentration of N-palmitoyl-Gly-His was 1.0 wt % (w/w) and the concentration of an additive (sodium ethylenediaminediacetate, sodium ethylenediaminetetraacetate) was 1.0 wt % (w/w), and a stirring bar (manufactured by As One Corporation, 4 mm×10 mm) was put thereinto. The additives (each having a pH that is outside the range of 6.5 to 9.3 or 1.8 to 2.5) are outside the scope of the present invention. Next, heating and stirring were performed, with a cap of the screw bottle being open, in a water bath (NWB-180N, manufactured by Nissinrika K. K.) for 60 minutes at a maximum until a transparent dispersion state was confirmed at 80° C. After heating and stirring, there were no undissolved residues in the solution with sodium ethylenediaminetetraacetate, whereas undissolved residues were observed by visual inspection in the other.

reactant | N-palmitoyl-Gly-His | N(CC(=O)N[C@@H](CC1=CNC=N1)C(=O)O)C(=O)CCCCCCCCCCCCCCC | C24H42N4O4
reactant | sodium ethylenediaminetetraacetate | C(CN(CC(=O)[O-])CC(=O)[O-])N(CC(=O)[O-])CC(=O)[O-].[Na+].[Na+].[Na+].[Na+]
product | N-Palmitoyl-Gly | N(CC(=O)O)C(=O)CCCCCCCCCCCCCCC | C18H35NO3
